US08563715B2
The synthesis method shall be explained concretely following the order below. 50% dimethylamine aqueous solution (2.9 ml) was added to a solution of 4,6-dichloro-2-(4-phenylpiperazin-1-yl)pyrimidine (1.01 g, 3.26 mmol) in tetrahydrofuran (10 ml) solution, and this was agitated overnight at room temperature. Water was added and extraction was carried out 2 times with ethyl acetate. After washing the organic layer in saturated saline, drying was done with MgSO4, the solvent was distilled away under reduced pressure, and a 4-chloro-6-dimethylamino-2-(4-phenylpiperazin-1-yl)pyrimidine powder was obtained. This powder was used in the next reaction without separation and refinement. Morpholine (6.0 ml) was added to this powder, and this was agitated at 100 degrees Celsius overnight. After cooling, water was added and extraction was carried out 2 times with dichloromethane. The organic layer was washed with saturated saline, drying was done with MgSO4, and the solvent was distilled away under reduced pressure. The residue was washed with ether, and 810 mg (two step yield: 70%) of coarse crystals of 6-dimethylamino-4-morpholino-2-(4-phenylpiperazin-1-yl)pyrimidine was obtained. The melting point measurement result, the MS measurement result, and the NMR data for the obtained Compound 2 are shown below.

reactant | dimethylamine | 2.9 ml | CNC | C2H7N
reactant | 4,6-dichloro-2-(4-phenylpiperazin-1-yl)pyrimidine | 3.26 mmol, 1.01 g | ClC1=NC(=NC(=C1)Cl)N1CCN(CC1)C1=CC=CC=C1 | C14H14Cl2N4
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-chloro-6-dimethylamino-2-(4-phenylpiperazin-1-yl)pyrimidine | yield: 70% | ClC1=NC(=NC(=C1)N(C)C)N1CCN(CC1)C1=CC=CC=C1 | C16H20ClN5
